US07906532B2
Step 1. tert-Butyl ethyl (5-nitropyridin-2-yl)malonate
To a stirred suspension of 2-chloro-5-nitropyridine (7.66 g, 48.3 mmol), sodium hydride (60% in mineral oil, 2.13 g, 53.1 mmol) in N,N-dimethylformamide (100 mL) was added tert-butyl ethyl malonate (10.0 g, 53.1 mmol) dropwise at room temperature, and the mixture was stirred at room temperature for 20 h. The mixture was washed with water (300 mL×5), brine (100 mL), dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (5:1) to give 12.3 g (82%) of the title compound as a brown oil.

reactant | 2-chloro-5-nitropyridine | 48.3 mmol, 7.66 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium hydride | 53.1 mmol, 2.13 g | [H-].[Na+]
reactant | tert-butyl ethyl malonate | 53.1 mmol, 10.0 g | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | tert-Butyl ethyl (5-nitropyridin-2-yl)malonate | 12.3 g, 82% | [N+](=O)([O-])C=1C=CC(=NC1)C(C(=O)OC(C)(C)C)C(=O)OCC | C14H18N2O6
